US06121285
Ethyl cis-1-benzyl-4-(1-tert-butoxycarbonylaminocyclopropyl)-pyrrolidine-3-carboxylate
Under a nitrogen gas stream, bis(bicyclo[2.2.1]hepta-2,5-diene)rhodium (I) perchlorate (54.5 mg, 0.14 mmol) and 1,2-bis(diphenylphosphino)ethane (67.4 mg, 0.17 mmol) were dissolved in degassed methanol (25 ml) and stirred at room temperature for 10 minutes. To this catalyst solution was added a solution of ethyl 1-benzyl-4-(1-tert-butoxycarbonylaminocyclopropyl)-3-pyrroline-3-carboxylate (1.090 g, 2.820 mmol) in dry and degassed methanol (15 ml). The thus obtained liquid reaction mixture was then stirred under a hydrogen atmosphere (1 kg/cm2) at room temperature for 2.5 hours. After adding active carbon (1 g), the liquid reaction mixture was allowed to stand at room temperature for 30 minutes and then filtered-through celite (washed with methanol). The filtrate was concentrated under reduced pressure and the residue was subjected to flash silica gel column chromatography (eluent:n-hexane:ethyl acetate=5:1) to obtain 1.071 g (97.8%) of the title compound as colorless crystals.

reactant | 1,2-bis(diphenylphosphino)ethane | 0.17 mmol, 67.4 mg | C1(=CC=CC=C1)P(CCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C26H24P2
reactant | ethyl 1-benzyl-4-(1-tert-butoxycarbonylaminocyclopropyl)-3-pyrroline-3-carboxylate | 2.820 mmol, 1.090 g | C(C1=CC=CC=C1)N1CC(=C(C1)C1(CC1)NC(=O)OC(C)(C)C)C(=O)OCC | C22H30N2O4
solvent | methanol | 25 ml | CO | CH4O
product | Ethyl cis-1-benzyl-4-(1-tert-butoxycarbonylaminocyclopropyl)-pyrrolidine-3-carboxylate | 1.071 g, 97.8% | C(C1=CC=CC=C1)N1C[C@H]([C@H](C1)C1(CC1)NC(=O)OC(C)(C)C)C(=O)OCC | C22H32N2O4
